US07485644B2
Hydroxy{(1S)-4-pyrimidin-2-yl-1-[({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)methyl]butyl}formamide
To formic acid (114 mL, 3.03 mol) at 0° C. was added acetic anhydride (28.6 mL, 0.303 mol) and the mixture was stirred at RT for 10 minutes. The reaction was then recooled to 0° C., and added to a solution of 2-(4-{[2-(hydroxyamino)-5-pyrimidin-2-ylpentyl]sulfonyl}piperazin-1-yl)-5-(2,2,2-trifluoroethoxy)pyrimidine (30.6 g, 60.5 mmol) and formic acid (114 mL, 3.03 mol) in THF (600 mL). The reaction was brought to room temperature and stirred for one hour. Volatiles were then removed in vacuo, and the residue azeotroped with toluene (2×300 mL). The residue was then dissolved in methanol (300 mL) and heated to 40° C. for one hour. The solution was then cooled to room temperature and concentrated in vacuo. The residue was then purified by flash chromatography (silica gel, 10% MeOH in EtOAc) to give the racemic compound as a pale orange foam (22.94 g, 43 mmol, 71%).

reactant | formic acid | 3.03 mol, 114 mL | C(=O)O | CH2O2
reactant | acetic anhydride | 0.303 mol, 28.6 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(4-{[2-(hydroxyamino)-5-pyrimidin-2-ylpentyl]sulfonyl}piperazin-1-yl)-5-(2,2,2-trifluoroethoxy)pyrimidine | 60.5 mmol, 30.6 g | ONC(CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)OCC(F)(F)F)CCCC1=NC=CC=N1 | C19H26F3N7O4S
reactant | formic acid | 3.03 mol, 114 mL | C(=O)O | CH2O2
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | Hydroxy{(1S)-4-pyrimidin-2-yl-1-[({4-[5-(2,2,2-trifluoroethoxy)pyrimidin-2-yl]piperazin-1-yl}sulfonyl)methyl]butyl}formamide | 43 mmol, 22.94 g, 71% | ON(C=O)[C@@H](CCCC1=NC=CC=N1)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)OCC(F)(F)F | C20H26F3N7O5S
